US07858632B2
To a solution of sodium sulfite (541 mg, 4.29 mmol) in water (20 mL) was added 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzenesulfonyl chloride (400 mg, 1.07 mmol) and the reaction was heated at 80° C. for 1 hour. Sodium bicarbonate (361 mg, 4.29 mmol-dissolved in 5 mL water), dioxane (20 mL), and ethyl iodide (0.10 mL, 1.29 mmol) were added and the reaction was heated at 80° C. for 2 hours. The reaction was concentrated, extracted with dichoromethane (150 mL) and water (20 mL). The dichloromethane layer was dried using anhydrous sodium sulfate, concentrated, and purified via silica gel column chromatography (95/5/0.1 dichloromethane/methanol/ammonium hydroxide) to yield 5-(5-ethanesulfonyl-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (77 mg, 20%) as white solid, MS (M+H)=367.

reactant | sodium sulfite | 4.29 mmol, 541 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzenesulfonyl chloride | 1.07 mmol, 400 mg | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C1)S(=O)(=O)Cl)OC)C(C)C | C14H17ClN4O4S
reactant | Sodium bicarbonate | 4.29 mmol, 5 mL, 361 mg | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 1.29 mmol, 0.10 mL | C(C)I | C2H5I
solvent | water | 20 mL | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(5-ethanesulfonyl-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 77 mg, 20% | C(C)S(=O)(=O)C=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C16H22N4O4S
